US07259262B2
1-[2-(4-{2-[(E)-2-(4-Trifluoromethyl-phenyl)-vinyl]-thiazol-4-ylmethoxy}-phenyl) -thiazole-4-ylmethyl]-1H-[1,2,3]triazole
A mixture of 0.129 g (0.50 mmol) 4-(4-[1,2,3]triazol-1-ylmethyl-thiazol-2-yl)-phenol and 0.10 g (0.30 mmol) cesium carbonate in 10 ml butanone was stirred at 60° C. for 30 min, then 0.153 g (0.50 mmol) 4-chloromethyl-2-[2-(4-trifluoromethyl-phenyl)-vinyl]-thiazole and 0.083 g (0.50 mmol) potassium iodide were added and stirring at 60° C. continued over night. After evaporation, 15 ml water was added and the mixture extracted with two portions of 15 ml ethyl acetate. The combined organic layers were washed with 1N sodium hydroxide and water, dried over sodium sulfate and evaporated to give 174 mg raw material which was purified on silica. Elution with ethyl acetate/heptane 5:1 yielded 86 mg white crystals (33%) of 1-[2-(4-{2-[2-((E)-4-trifluoromethyl-phenyl)-vinyl]-thiazol-4-ylmethoxy}-phenyl)-thiazol-4-ylmethyl]-1H-[1,2,3]triazole melting at 146-148° C.

reactant | 4-(4-[1,2,3]triazol-1-ylmethyl-thiazol-2-yl)-phenol | 0.50 mmol, 0.129 g | N1(N=NC=C1)CC=1N=C(SC1)C1=CC=C(C=C1)O | C12H10N4OS
reactant | cesium carbonate | 0.30 mmol, 0.10 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloromethyl-2-[2-(4-trifluoromethyl-phenyl)-vinyl]-thiazole | 0.50 mmol, 0.153 g | ClCC=1N=C(SC1)C=CC1=CC=C(C=C1)C(F)(F)F | C13H9ClF3NS
reactant | potassium iodide | 0.50 mmol, 0.083 g | [I-].[K+]
solvent | butanone | 10 ml | CC(CC)=O | C4H8O
product | 1-[2-(4-{2-[(E)-2-(4-Trifluoromethyl-phenyl)-vinyl]-thiazol-4-ylmethoxy}-phenyl) -thiazole-4-ylmethyl]-1H-[1,2,3]triazole | 86 mg, 33% | FC(C1=CC=C(C=C1)/C=C/C=1SC=C(N1)COC1=CC=C(C=C1)C=1SC=C(N1)CN1N=NC=C1)(F)F | C25H18F3N5OS2
